US09388189B2
(S)—N-(3-(4-Amino-6-((1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)phenyl)-4-methoxybenzenesulfonamide
(S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (150 mg, 0.35 mmol) was treated with 4-methoxy-N-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)benzenesulfonamide (205 mg, 0.53 mmol), 2M cesium carbonate (360 μl, 0.72 mmol) and bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (28 mg, 0.03 mmol) according to the method described in Example 3 to give 126 mg (59% yield) of the title compound as a solid. Purity 100%.

reactant | (S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.35 mmol, 150 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2)Br | C18H16BrN7O
reactant | 4-methoxy-N-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)benzenesulfonamide | 0.53 mmol, 205 mg | COC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C19H24BNO5S
reactant | cesium carbonate | 0.72 mmol, 2M, 360 μl | C([O-])([O-])=O.[Cs+].[Cs+]
product | (S)—N-(3-(4-Amino-6-((1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)phenyl)-4-methoxybenzenesulfonamide | 126 mg, 59% yield | NC1=NC=NC(=C1C=1C=C(C=CC1)NS(=O)(=O)C1=CC=C(C=C1)OC)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2 | C31H28N8O4S
